US08207172B2
2-[(2-chloro-4-nitrophenoxy)methyl]-6-methylpyridine (4.87 g, 17.5 mmol) and iron powder (4.87 g, 87.4 mmol) were mixed in 150 mL acetic acid, and were stirred at rt overnight. The reaction mixture was filtered through a pad of Celite®, and washed with EtOAc. The filtrate was concentrated in vacuo and neutralized with saturated Na2CO3 solution. The contents were extracted with EtOAc (5×300 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. The resulting crude material was triturated with Hex/EtOAc (2:1) to afford 3-chloro-4-[(6-methylpyridin-2-yl)methoxy]aniline (3.84 g, 88%) as a white solid. 1H-NMR (DMSO) δ 7.70 (dd, 1H), 7.31 (d, 1H), 7.17 (d, 1H), 6.88 (d, 1H), 6.65 (d, 1H), 6.44 (dd, 1H), 5.01 (s, 2H), 4.93 (s, 2H), 2.46 (s, 3H); LCMS RT=0.25 min; [M+H]+=249.2.

reactant | 2-[(2-chloro-4-nitrophenoxy)methyl]-6-methylpyridine | 17.5 mmol, 4.87 g | ClC1=C(OCC2=NC(=CC=C2)C)C=CC(=C1)[N+](=O)[O-] | C13H11ClN2O3
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 87.4 mmol, 4.87 g | [Fe] | Fe
product | 3-chloro-4-[(6-methylpyridin-2-yl)methoxy]aniline | 3.84 g, 88% | ClC=1C=C(N)C=CC1OCC1=NC(=CC=C1)C | C13H13ClN2O
